* Folded Cascode OTA - SKY130
* Fully-differential folded cascode operational transconductance amplifier.
* 10 transistors: NMOS diff pair (M1-M2), PMOS folding transistors (M3-M4),
* PMOS cascode loads (M5-M6), NMOS cascode current sources (M7-M8),
* NMOS tail current source (M9), and PMOS bias current source (M10).

.global VSS
.subckt folded_cascode VDD VSS INP INN OUTP OUTN BIAS_N BIAS_P CASC_N CASC_P

* --- Input differential pair (NMOS) ---
* M1 — positive input
M1 fold_a INP tail VSS sky130_fd_pr__nfet_01v8 W=4.0000e-06 L=1.5000e-07 m=2

* M2 — negative input
M2 fold_b INN tail VSS sky130_fd_pr__nfet_01v8 W=4.0000e-06 L=1.5000e-07 m=2

* --- PMOS folding transistors ---
* M3 — folds current from M1 drain into cascode stack
M3 fold_a BIAS_P VDD VDD sky130_fd_pr__pfet_01v8 W=6.0000e-06 L=1.5000e-07 m=2

* M4 — folds current from M2 drain into cascode stack
M4 fold_b BIAS_P VDD VDD sky130_fd_pr__pfet_01v8 W=6.0000e-06 L=1.5000e-07 m=2

* --- PMOS cascode loads ---
* M5 — cascode device on positive output
M5 OUTP CASC_P fold_a VDD sky130_fd_pr__pfet_01v8 W=6.0000e-06 L=1.5000e-07 m=2

* M6 — cascode device on negative output
M6 OUTN CASC_P fold_b VDD sky130_fd_pr__pfet_01v8 W=6.0000e-06 L=1.5000e-07 m=2

* --- NMOS cascode current sources ---
* M7 — cascode NMOS on positive output
M7 OUTP CASC_N cas_a VSS sky130_fd_pr__nfet_01v8 W=4.0000e-06 L=1.5000e-07 m=2

* M8 — cascode NMOS on negative output
M8 OUTN CASC_N cas_b VSS sky130_fd_pr__nfet_01v8 W=4.0000e-06 L=1.5000e-07 m=2

* --- Bias current sources ---
* M9 — tail current source for input pair
M9 tail BIAS_N VSS VSS sky130_fd_pr__nfet_01v8 W=8.0000e-06 L=1.5000e-07 m=2

* M10 — bottom NMOS current sources (shared bias)
M10a cas_a BIAS_N VSS VSS sky130_fd_pr__nfet_01v8 W=4.0000e-06 L=1.5000e-07 m=2
M10b cas_b BIAS_N VSS VSS sky130_fd_pr__nfet_01v8 W=4.0000e-06 L=1.5000e-07 m=2

.ends folded_cascode
